US07732618B2
b.) {5-[(4-Fluoro-benzenesulfonyl)-(3-trifluoromethyl-benzyl)-amino]-2-propyl-benzoimidazol-1-yl }-acetic acid.
{5-[(4-Fluoro-benzenesulfonyl)-(3-trifluoromethyl-benzyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. MS calculated for C26H23F4N3O4S—H: 548, observed: 548.

reactant | {5-[(4-Fluoro-benzenesulfonyl)-(3-trifluoromethyl-benzyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(CC2=CC(=CC=C2)C(F)(F)F)S(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C30H31F4N3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[(4-Fluoro-benzenesulfonyl)-(3-trifluoromethyl-benzyl)-amino]-2-propyl-benzoimidazol-1-yl }-acetic acid | FC1=CC=C(C=C1)S(=O)(=O)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)CC1=CC(=CC=C1)C(F)(F)F | C26H23F4N3O4S
